US04505912
Methyl 2-(3-diethylamino-propyl)-5-(4-chlorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride
A mixture consisting of 5.1 gm (0.02 mol) of methyl 1-(4-chlorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate, 100 ml of absolute dimethyl formamide and 7.5 gm (0.05 mol) of 1-chloro-3-diethylamino-propane was reacted analogous to Example 1, the reaction mixture was evaporated in vacuo, the residue was dissolved in 2N hydrochloric acid, and the solution was fractionally extracted with ether at stepwisely increasing pH values. After evaporation of the ether phases which were shown to be identical and pure by thin-layer chromatography, the residue was dissolved in ethyl acetate, and the hydrochloride was precipitated with ethereal hydrochloric acid and recrystallized twice, yielding 1.1 gm of the desired compound, corresponding to 13.7% of theory; melting point 181° C.

reactant | methyl 1-(4-chlorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate | 0.02 mol, 5.1 gm | ClC1=CC=C(C=C1)N1N=NC(=C1N)C(=O)OC | C10H9ClN4O2
reactant | 1-chloro-3-diethylamino-propane | 0.05 mol, 7.5 gm | ClCCCN(CC)CC | C7H16ClN
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(3-diethylamino-propyl)-5-(4-chlorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride | 1.1 gm | Cl.C(C)N(CCCN1N=C(C(=N1)C(=O)OC)NC1=CC=C(C=C1)Cl)CC | InChI=1S/C17H24ClN5O2.ClH/c1-4-22(5-2)11-6-12-23-20-15(17(24)25-3)16(21-23)19-14-9-7-13(18)8-10-14;/h7-10H,4-6,11-12H2,1-3H3,(H,19,21);1H
